US05750525
250 mg of [(6-(N-imidazolyl)-7-nitro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl)methanephosphonic acid diethyl ester is heated in 3 ml of concentrated hydrochloric acid for 2.5 hours to 110° C. bath temperature. After concentration by evaporation, it is taken up in water, and the precipitated product is suctioned off. 100 mg of [6-(N-imidazolyl)-7-nitro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl]methanephosphonic acid is obtained.

reactant | (6-(N-imidazolyl)-7-nitro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl)methanephosphonic acid diethyl ester | C(C)OP(OCC)(=O)CN1C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])N1C=NC=C1)=O)=O | C16H18N5O7P
solvent | hydrochloric acid | 3 ml | Cl | ClH
product | [6-(N-imidazolyl)-7-nitro-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl]methanephosphonic acid | 100 mg | N1(C=NC=C1)C=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])CP(O)(=O)O)=O)=O | C12H10N5O7P
